US06005116
(a) 4-Chlorocinnamic acid ethyl ester
4-Chlorocinnamic acid (300 g) was suspended in benzene (1200 ml), and ethanol (340 g) and conc. sulfuric acid (14 ml) were added thereto, followed by reflux of the resulting mixture for 15 hours. After the reaction mixture had been washed successively with a diluted aqueous NaCl solution (500 ml), a saturated aqueous sodium hydrogencarbonate solution (500 ml) and a dilute aqueous NaCl solution (500 ml), the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was evaporated under reduced pressure to obtain the title compound (334 g, 97%) as a colorless liquid.

reactant | 4-Chlorocinnamic acid | 300 g | ClC1=CC=C(C=CC(=O)O)C=C1 | C9H7ClO2
reactant | ethanol | 340 g | C(C)O | C2H6O
reactant | sulfuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 1200 ml | C1=CC=CC=C1 | C6H6
product | 4-Chlorocinnamic acid ethyl ester | 334 g, 97% | C(C)OC(C=CC1=CC=C(C=C1)Cl)=O | C11H11ClO2
